simulator lang=spice
// Generated for: spectre
// Generated on: Oct 17 10:26:55 2014
// Design library name: 130nm_BOOLEAN_AND_SPECIAL_final
// Design cell name: XOR2_A
// Design view name: schematic
.SUBCKT XOR2_A A B GND VDD Z
simulator lang=spectre

// Library name: 130nm_BOOLEAN_AND_SPECIAL_final
// Cell name: XOR2_A
// View name: schematic
TNB (net059 B GND GND) nfet l=120.0n w=280.0n nf=1 m=1 par=1 ngcon=1 \
        ad=1.54e-13 as=1.54e-13 pd=1.66u ps=1.66u nrd=0.6429 nrs=0.6429 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TNA (net078 A GND GND) nfet l=120.0n w=540.0n nf=1 m=1 par=1 ngcon=1 \
        ad=2.97e-13 as=2.97e-13 pd=2.18u ps=2.18u nrd=0.3333 nrs=0.3333 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TNANOT (net043 net078 GND GND) nfet l=120.0n w=300.0n nf=1 m=1 par=1 \
        ngcon=1 ad=1.65e-13 as=1.65e-13 pd=1.7u ps=1.7u nrd=0.6 nrs=0.6 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TNBNOT (Z net059 net043 GND) nfet l=120.0n w=300.0n nf=1 m=1 par=1 ngcon=1 \
        ad=1.65e-13 as=1.65e-13 pd=1.7u ps=1.7u nrd=0.6 nrs=0.6 rf_rsub=1 \
        plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TNBM1 (Z B net078 GND) nfet l=120.0n w=280.0n nf=1 m=1 par=1 ngcon=1 \
        ad=1.54e-13 as=1.54e-13 pd=1.66u ps=1.66u nrd=0.6429 nrs=0.6429 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TPA (net078 A VDD VDD) pfet l=120.0n w=760.0n nf=1 m=1 par=1 ngcon=1 \
        ad=4.18e-13 as=4.18e-13 pd=2.62u ps=2.62u nrd=0.2368 nrs=0.2368 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TPANOT (Z net078 net059 VDD) pfet l=120.0n w=760.0n nf=1 m=1 par=1 ngcon=1 \
        ad=4.18e-13 as=4.18e-13 pd=2.62u ps=2.62u nrd=0.2368 nrs=0.2368 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TPB (net059 B VDD VDD) pfet l=120.0n w=760.0n nf=1 m=1 par=1 ngcon=1 \
        ad=4.18e-13 as=4.18e-13 pd=2.62u ps=2.62u nrd=0.2368 nrs=0.2368 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
TPBNOT (Z net059 net078 VDD) pfet l=120.0n w=760.0n nf=1 m=1 par=1 ngcon=1 \
        ad=4.18e-13 as=4.18e-13 pd=2.62u ps=2.62u nrd=0.2368 nrs=0.2368 \
        rf_rsub=1 plnest=-1 plorient=-1 pld200=-1 pwd100=-1 lstis=1 lnws=0 \
        rgatemod=0 rbodymod=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p \
        panw6=0p panw7=0p panw8=0p panw9=0p panw10=0p sa=5.5e-07 \
        sb=5.5e-07 sd=0u dtemp=0
simulator lang=spice
.ENDS
